US06465472B1
3,4-(Ethylenedioxy)-2-amino-4,5-(methylenedioxy)benzophenone (15.0 g, 52.63 mmol) was dissolved in AcOH (250 mL) by heating. To this reaction mixture was added sodium cyanate (4.1 g, 63.16 mmol) and water (25 mL). The resulting mixture was then stirred at room temp. open to the air. After stirring for 18 h. excess water (120 mL) was added. The precipitate as collected by filtration. The precipitate was washed with water, and dried to give a 6,7-methylenedioxy-4-(3,4-ethylenedioxyphenyl)quinazolin-2(1H)-one as yellow solid (15.7 g); C16H10N2O5; mp >300° C. 1H NMR (DMSO) δ 11.80 (s, 1H), 7.11 (s, 1H), 7.08 (d, J=2.4 Hz, 1H), 6.98-7.02 (m, 2H), 6.79 (s, 1H), 6.14 (s, 2H), 4.30 (s, 4H).

reactant | 3,4-(Ethylenedioxy)-2-amino-4,5-(methylenedioxy)benzophenone | 52.63 mmol, 15.0 g | C1OC2C(=C(C(=O)C3=CC=CC=C3)C=C3C2(OCO3)OC1)N | C16H15NO5
reactant | sodium cyanate | 63.16 mmol, 4.1 g | [O-]C#N.[Na+]
reactant | water | 25 mL | O | H2O
reactant | water | 120 mL | O | H2O
reactant | AcOH | 250 mL | CC(=O)O | C2H4O2
product | 6,7-methylenedioxy-4-(3,4-ethylenedioxyphenyl)quinazolin-2(1H)-one | 15.7 g | C1OC=2C=C3C(=NC(NC3=CC2O1)=O)C1=CC2=C(C=C1)OCCO2 | C17H12N2O5
